** Name: SymmetricalOpAmp119

.MACRO SymmetricalOpAmp119 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=7e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=319e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=6e-6 W=319e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos6 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=6e-6 W=319e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos8 out2FirstStage ibias sourceNmos sourceNmos nmos4 L=2e-6 W=330e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=2e-6 W=125e-6
mNormalTransistorNmos10 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=319e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=175e-6
mNormalTransistorPmos12 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=175e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=141e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=144e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=181e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=181e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp119

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 4.36501 mW
** Area: 9723 (mu_m)^2
** Transit frequency: 13.0641 MHz
** Transit frequency with error factor: 13.0636 MHz
** Slew rate: 22.2093 V/mu_s
** Phase margin: 80.7871°
** CMRR: 144 dB
** negPSRR: 47 dB
** posPSRR: 41 dB
** VoutMax: 4.40001 V
** VoutMin: 0.720001 V
** VcmMax: 5.22001 V
** VcmMin: 0.860001 V


** Expected Currents: 
** NormalTransistorNmos: 465.812 muA
** NormalTransistorPmos: -87.7129 muA
** NormalTransistorPmos: -87.7139 muA
** NormalTransistorPmos: -87.7129 muA
** NormalTransistorPmos: -87.7139 muA
** NormalTransistorNmos: 175.425 muA
** NormalTransistorNmos: 87.7121 muA
** NormalTransistorNmos: 87.7121 muA
** NormalTransistorNmos: 111.986 muA
** DiodeTransistorNmos: 111.985 muA
** NormalTransistorPmos: -111.985 muA
** NormalTransistorPmos: -111.986 muA
** DiodeTransistorNmos: 109.836 muA
** NormalTransistorNmos: 109.837 muA
** NormalTransistorPmos: -109.835 muA
** NormalTransistorPmos: -109.836 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -465.811 muA


** Expected Voltages: 
** ibias: 0.588001  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.562001  V
** inSourceTransconductanceComplementarySecondStage: 4.25101  V
** innerComplementarySecondStage: 1.12401  V
** out: 2.5  V
** out1FirstStage: 4.24901  V
** out2FirstStage: 3.68701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load1: 4.41801  V
** innerTransistorStack2Load1: 4.41801  V
** sourceTransconductance: 1.82201  V
** innerTransconductance: 4.66701  V
** inner: 0.563001  V
** inner: 4.66301  V


.END