** Name: SymmetricalOpAmp12

.MACRO SymmetricalOpAmp12 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=27e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=56e-6
mDiodeTransistorPmos4 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos5 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos6 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mNormalTransistorPmos8 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=31e-6
mNormalTransistorPmos9 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=15e-6
mNormalTransistorPmos10 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=31e-6
mNormalTransistorPmos11 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=582e-6
mNormalTransistorPmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp12

** Expected Performance Values: 
** Gain: 49 dB
** Power consumption: 1.99201 mW
** Area: 3506 (mu_m)^2
** Transit frequency: 14.0751 MHz
** Transit frequency with error factor: 14.0755 MHz
** Slew rate: 27.4154 V/mu_s
** Phase margin: 85.3708°
** CMRR: 102 dB
** negPSRR: 49 dB
** posPSRR: 99 dB
** VoutMax: 3 V
** VoutMin: 0.150001 V
** VcmMax: 3.91001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** DiodeTransistorNmos: 52.7111 muA
** DiodeTransistorNmos: 52.7111 muA
** NormalTransistorPmos: -105.422 muA
** NormalTransistorPmos: -52.7119 muA
** NormalTransistorPmos: -52.7119 muA
** NormalTransistorNmos: 137.336 muA
** NormalTransistorPmos: -137.335 muA
** DiodeTransistorPmos: -137.336 muA
** DiodeTransistorPmos: -135.741 muA
** NormalTransistorPmos: -135.74 muA
** NormalTransistorNmos: 135.742 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21201  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 3.72101  V
** inTransconductanceComplementarySecondStage: 0.557001  V
** innerComplementarySecondStage: 2.43801  V
** out: 2.5  V
** outFirstStage: 0.557001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.37101  V
** inner: 3.71101  V


.END