** Name: SymmetricalOpAmp13

.MACRO SymmetricalOpAmp13 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=25e-6
mDiodeTransistorPmos4 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=55e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=5e-6 W=61e-6
mNormalTransistorNmos6 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=4e-6 W=122e-6
mNormalTransistorNmos7 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=4e-6 W=122e-6
mNormalTransistorNmos8 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=71e-6
mNormalTransistorNmos9 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=71e-6
mNormalTransistorPmos10 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=5e-6 W=72e-6
mNormalTransistorPmos11 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=77e-6
mNormalTransistorPmos12 innerComplementarySecondStage inStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=4e-6 W=55e-6
mNormalTransistorPmos13 out innerComplementarySecondStage inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage pmos4 L=1e-6 W=32e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=2e-6 W=77e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=5e-6 W=574e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp13

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 1.99101 mW
** Area: 5499 (mu_m)^2
** Transit frequency: 16.3521 MHz
** Transit frequency with error factor: 16.3523 MHz
** Slew rate: 26.9512 V/mu_s
** Phase margin: 75.0575°
** CMRR: 142 dB
** negPSRR: 46 dB
** posPSRR: 54 dB
** VoutMax: 3.20001 V
** VoutMin: 0.380001 V
** VcmMax: 3.96001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -12.0149 muA
** DiodeTransistorNmos: 47.8931 muA
** DiodeTransistorNmos: 47.8931 muA
** NormalTransistorPmos: -95.7869 muA
** NormalTransistorPmos: -47.8939 muA
** NormalTransistorPmos: -47.8939 muA
** NormalTransistorNmos: 135.229 muA
** NormalTransistorNmos: 135.23 muA
** NormalTransistorPmos: -135.228 muA
** DiodeTransistorPmos: -135.229 muA
** NormalTransistorPmos: -135.23 muA
** NormalTransistorNmos: 135.231 muA
** NormalTransistorNmos: 135.23 muA
** DiodeTransistorNmos: 12.0141 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.22101  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.783001  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** inStageBiasComplementarySecondStage: 3.69101  V
** innerComplementarySecondStage: 2.63901  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.32701  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END