** Name: SymmetricalOpAmp16

.MACRO SymmetricalOpAmp16 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=5e-6 W=13e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=4e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=53e-6
mDiodeTransistorPmos4 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=441e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=377e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=441e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=5e-6 W=5e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=5e-6 W=317e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=53e-6
mNormalTransistorPmos13 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=41e-6
mNormalTransistorPmos14 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=30e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=30e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp16

** Expected Performance Values: 
** Gain: 52 dB
** Power consumption: 4.45401 mW
** Area: 12026 (mu_m)^2
** Transit frequency: 52.8861 MHz
** Transit frequency with error factor: 52.8857 MHz
** Slew rate: 60.3552 V/mu_s
** Phase margin: 67.0361°
** CMRR: 93 dB
** negPSRR: 99 dB
** posPSRR: 52 dB
** VoutMax: 4.25 V
** VoutMin: 0.540001 V
** VcmMax: 4.09001 V
** VcmMin: 0.800001 V


** Expected Currents: 
** NormalTransistorNmos: 3.87901 muA
** NormalTransistorPmos: -32.1069 muA
** DiodeTransistorPmos: -120.538 muA
** DiodeTransistorPmos: -120.538 muA
** NormalTransistorNmos: 241.078 muA
** NormalTransistorNmos: 120.539 muA
** NormalTransistorNmos: 120.539 muA
** NormalTransistorNmos: 304.602 muA
** NormalTransistorNmos: 304.601 muA
** NormalTransistorPmos: -304.601 muA
** DiodeTransistorNmos: 299.148 muA
** NormalTransistorPmos: -299.147 muA
** DiodeTransistorNmos: 32.1061 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -3.87999 muA


** Expected Voltages: 
** ibias: 0.618001  V
** in1: 2.5  V
** in2: 2.5  V
** inTransconductanceComplementarySecondStage: 3.68601  V
** innerComplementarySecondStage: 0.772001  V
** inputVoltageBiasXXnXX1: 0.941001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outVoltageBiasXXpXX0: 4.14001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.91501  V
** innerStageBias: 0.367001  V


.END