** Name: SymmetricalOpAmp183

.MACRO SymmetricalOpAmp183 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=23e-6
mDiodeTransistorNmos2 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=3e-6 W=10e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorPmos4 out2FirstStage out2FirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mNormalTransistorNmos5 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=116e-6
mNormalTransistorNmos6 out innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=23e-6
mNormalTransistorNmos7 out1FirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=116e-6
mNormalTransistorNmos8 out2FirstStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=248e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=72e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=75e-6
mNormalTransistorPmos11 innerComplementarySecondStage out2FirstStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=172e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage out2FirstStage FirstStageYinnerTransistorStack2Load1 FirstStageYinnerTransistorStack2Load1 pmos4 L=1e-6 W=59e-6
mNormalTransistorPmos13 out out2FirstStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=172e-6
mNormalTransistorPmos14 out1FirstStage out2FirstStage FirstStageYinnerTransistorStack1Load1 FirstStageYinnerTransistorStack1Load1 pmos4 L=1e-6 W=59e-6
mNormalTransistorPmos15 FirstStageYinnerTransistorStack1Load1 out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=11e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load1 inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=11e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance out1FirstStage sourcePmos sourcePmos pmos4 L=3e-6 W=32e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=32e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp183

** Expected Performance Values: 
** Gain: 55 dB
** Power consumption: 1.79301 mW
** Area: 4776 (mu_m)^2
** Transit frequency: 14.1001 MHz
** Transit frequency with error factor: 14.0998 MHz
** Slew rate: 13.8053 V/mu_s
** Phase margin: 75.6305°
** CMRR: 97 dB
** negPSRR: 130 dB
** posPSRR: 65 dB
** VoutMax: 4.25 V
** VoutMin: 0.590001 V
** VcmMax: 4.81001 V
** VcmMin: 1.27001 V


** Expected Currents: 
** NormalTransistorNmos: 162.454 muA
** NormalTransistorPmos: -23.8089 muA
** NormalTransistorPmos: -23.8099 muA
** NormalTransistorPmos: -23.8089 muA
** NormalTransistorPmos: -23.8099 muA
** NormalTransistorNmos: 47.6161 muA
** NormalTransistorNmos: 47.6151 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 23.8081 muA
** NormalTransistorNmos: 69.3131 muA
** NormalTransistorPmos: -69.3139 muA
** NormalTransistorPmos: -69.3129 muA
** DiodeTransistorNmos: 69.3131 muA
** NormalTransistorPmos: -69.3139 muA
** NormalTransistorPmos: -69.3129 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -162.453 muA


** Expected Voltages: 
** ibias: 1.15101  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceTransconductanceComplementarySecondStage: 3.83601  V
** innerComplementarySecondStage: 0.999001  V
** out: 2.5  V
** out1FirstStage: 3.83601  V
** out2FirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.596001  V
** innerTransistorStack1Load1: 4.40001  V
** innerTransistorStack2Load1: 4.40001  V
** sourceTransconductance: 1.93901  V
** innerTransconductance: 4.40001  V
** inner: 4.40001  V


.END